US07935699B2
In a flask containing (R)—N-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-3-((R)-3-oxo-cyclopentyl)-2-(3-trifluoromethyl-phenyl)-propionamide (70 mg, 0.13 mmol) was added ethanol (2 mL) and concentrated hydrochloric acid (three drops) and it was stirred at 25° C. for 1 h. It was then diluted with acetonitrile and absorbed onto silica gel (2 g) in vacuo and purified on Biotage Flash chromatography system (40S column, silica gel, 80% ethyl acetate/hexanes to 10% methanol/ethyl acetate) to afford (R)—N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-3-((R)-3-oxo-cyclopentyl)-2-(3-trifluoromethyl-phenyl)-propionamide (49 mg, 89%) as a yellow foam: [α]25589=−79.3° (c=0.14, methanol); ES-HRMS m/e calcd for C20H22N3O3F3 (M+H)+ 410.1686, observed 410.1687; 1H NMR (300 MHz, DMSO-d6) δ 1.51 (m, 1H, CH), 1.73-2.30 (m, 8H, 4×CH2), 3.66 (m, 2H, OCH2), 3.95 (m, 1H, ArCHCO), 3.99 (m, 2H, NCH2), 4.83 (t, J=5.4 Hz, 1H, OH), 6.41 (d, J=2.0 Hz, 1H, Ar), 7.54 (d, J=2.0 Hz, 1 H, Ar), 7.60 (m, 2H, Ar), 7.69 (brd, 1H, Ar), 7.73 (brs, 1H, Ar), 10.79 (s, 1H, NH).

reactant | (R)—N-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-3-((R)-3-oxo-cyclopentyl)-2-(3-trifluoromethyl-phenyl)-propionamide | 0.13 mmol, 70 mg | C(C)(C)(C)[Si](OCCN1N=C(C=C1)NC([C@H](C[C@@H]1CC(CC1)=O)C1=CC(=CC=C1)C(F)(F)F)=O)(C)C | C26H36F3N3O3Si
reactant | ethanol | 2 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | three drops | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | (R)—N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-3-((R)-3-oxo-cyclopentyl)-2-(3-trifluoromethyl-phenyl)-propionamide | 49 mg, 89% | OCCN1N=C(C=C1)NC([C@H](C[C@@H]1CC(CC1)=O)C1=CC(=CC=C1)C(F)(F)F)=O | C20H22F3N3O3
